US08445510B2
2-Methyl-1-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propan-2-ol
A solution of 1-(4-iodo-5-methyl-1H-pyrazol-1-yl)-2-methylpropan-2-ol (150.0 mg, 0.5355 mmol) in THF (8 mL, 100 mmol) was added 2 M isopropylmagnesium chloride in THF (0.80 mL, 1.6 mmol) at 0° C., and the reaction was allowed to warm to rt over 30 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.35 mL, 2.1 mmol) was then added, and the mixture was stirred at rt overnight. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a white solid. The material was used in the next step without further purification.

reactant | 1-(4-iodo-5-methyl-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 0.5355 mmol, 150.0 mg | IC=1C=NN(C1C)CC(C)(O)C | C8H13IN2O
reactant | THF | 100 mmol, 8 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.6 mmol, 0.80 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.1 mmol, 0.35 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 2-Methyl-1-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propan-2-ol | CC(CN1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C)(C)O | C14H25BN2O3
